US07319099B2
(b) 5-Methylsulfamoyl-2-trifluoromethoxy-benzoic acid
To a solution of 5-Chlorosulfonyl-2-trifluoromethoxy-benzoic acid (0.15 g) in dichloromethane (1.5 ml) was added a solution of methylamine in methanol (8M, 0.31 mL), and the reaction mixture was stirred for 2 minutes after precipitation was complete. The reaction mixture was then concentrated in vacuo and the residue was dissolved in 1N NaOH (2 mL) and extracted with diethylether. The aqueous phase was then acidified using 3 N hydrochloric acid solution (2 mL), and the solution was extracted with dichloromethane (2×10 mL). The combined organic phases were dried with sodium sulfate and concentrated in vacuo to yield the title compound as a white solid (0.12 g). MS (m/e): 298.0 (M−H, 100%).

reactant | 5-Chlorosulfonyl-2-trifluoromethoxy-benzoic acid | 0.15 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C8H4ClF3O5S
reactant | methylamine | CN | CH5N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | methanol | 8M, 0.31 mL | CO | CH4O
product | 5-Methylsulfamoyl-2-trifluoromethoxy-benzoic acid | 0.12 g | CNS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C9H8F3NO5S
